US08487108B2
Step 2. 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(2-((4-nitrophenoxy)carbonyloxy)ethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate
A mixture of 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate (0.1880 g, 0.3 mmol, 1.0 equiv), DMAP (0.150 g, 1.2 mmol, 4 equiv), DIEA (1 mL, 6 mmol, 20 equiv), and 4-nitrophenyl chloroformate (0.1346 g, 0.67 mmol, 2.2 equiv) in CH2Cl2 (6 mL) was stirred at rt for 24 h. The reaction mixture was directly used in the next step without further purification. LC-MS (3 min) tR=2.68 min, m/z 777, 775 (MH+).

reactant | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(2-hydroxyethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | 0.3 mmol, 0.1880 g, 1.0 equiv | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1)OCCO | C31H52ClN3O5Si
reactant | DIEA | 6 mmol, 1 mL, 20 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-nitrophenyl chloroformate | 0.67 mmol, 0.1346 g, 2.2 equiv | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | DMAP | 1.2 mmol, 0.150 g, 4 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-(3-chlorophenyl)(2-((4-nitrophenoxy)carbonyloxy)ethoxy)methyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1)OCCOC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C38H55ClN4O9Si
